Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[O:7],2.62955870025
[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-3.89153243401
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-4.15282174876
[C:1][C:2](=[C:3]([O:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([C:3][O:4][H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7],5.32080969114
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],4.27792848159
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11]>>[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11].[H:1],5.95598227608
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.66442456304
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.94345587328
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1],5.67835264529
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([O:4][H:5])[C:11]([H:12])([H:13])[H:14],4.279695662219998
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3]([H:4])[O:5][H:6],3.95318369935
[H:1][C:2]/[C:4]([H:5])=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.3116469733
[H:1][O:2][C:3](=[C:4])[C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11]>>[H:1][O:2][C:3]1=[C:4][C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-3.87390116238
[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][H:3].[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],4.23445043598
[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.00771378181
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:13]([H:14])([H:15])[H:16],3.63285468949
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],4.56671599649
[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:5].[O:1]=[C:2][O:3][C:4]=[C:6]([H:7])[H:8],5.01258457806
[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:6](=[C:7][H:8])[O:9][H:10].[O:4][H:5],3.00876165085
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.858646565649
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]=[O:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7][O:8][C:9]1([H:10])[H:11],0.59882076722
[C:13]([H:14])[H:15].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.2891878423500005
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19],-1.1860636086399998
[C:8][H:9].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][H:9],-7.74283843339
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-0.02702533518
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.74553568485
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[C:12]([H:13])([H:14])[C:15]1([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](/[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],0.0511960987505999
[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11]>>[C:9][O:10][H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],5.81276404155
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[H:7]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[H:7],-0.895095759
